US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-(2-methoxyethyl)aminopurine
6-Amino-9-benzyl-8-methoxy-2-(2-methoxyethyl)aminopurine (26 mg, 0.079 mmol) in concentrated hydrochloric acid (20 ml) was stirred at room temperature for 7 hours. The reaction mixture was made basic with 28% aqueous ammonia. The resulting crystals were filtered to give the subject compound (18 mg, yield 73%).

reactant | 6-Amino-9-benzyl-8-methoxy-2-(2-methoxyethyl)aminopurine | 0.079 mmol, 26 mg | NC1=C2N=C(N(C2=NC(=N1)NCCOC)CC1=CC=CC=C1)OC | C16H20N6O2
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 6-Amino-9-benzyl-8-hydroxy-2-(2-methoxyethyl)aminopurine | 18 mg, yield 73% | NC1=C2N=C(N(C2=NC(=N1)NCCOC)CC1=CC=CC=C1)O | C15H18N6O2
